US07547691B2
(A). Preparation of 2,5-dichloro-4-(7-methoxybenzo[b]thiophen-2-yl)-pyrimidine
n-Butyl lithium (4.19 mL, 1.6 M in hexane) is added dropwise over 1 hour to a stirred solution of 7-methoxy-benzo[b]thiophene (1.00 g, 6.09 mmol) and triisopropyl borate (1.26 g, 6.70 mmol) in anhydrous THF (10 mL) at −78° C. under nitrogen. The resultant mixture is allowed to stir at −78° C. for 30 minutes, then at −20° C. for another 30 minutes. Aqueous Na2CO3 solution (2 M, 6.09 mL) is added to the mixture, followed by the addition of 1,1′-bis(diphenylphosphino)ferrocene (169 mg, 0.304 mmol), palladium(II) acetate (68.3 mg, 0.304 mmol) and 2,4,5-trichloropyrimidine (1.12 g, 6.09 mmol). Then the reaction mixture is heated to reflux for 18 hours. At ambient temperature CH3OH (10 mL) and CHCl3 (90 mL) are added to the mixture. The organic layer is separated, dried over MgSO4, filtered, and concentrated. After chromatographic purification on silica gel eluting with CH3OH in dichloromethane 0-1%, the title compound is obtained as a yellowish solid (40 mg) and 872 mg starting 7-methoxy-benzo[b]thiophene is recovered.

reactant | n-Butyl lithium | 1.6 M, 4.19 mL | C(CCC)[Li]
reactant | 7-methoxy-benzo[b]thiophene | 6.09 mmol, 1.00 g | COC1=CC=CC2=C1SC=C2 | C9H8OS
reactant | triisopropyl borate | 6.70 mmol, 1.26 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | Na2CO3 | 2 M, 6.09 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2,4,5-trichloropyrimidine | 6.09 mmol, 1.12 g | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.304 mmol, 169 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | palladium(II) acetate | 0.304 mmol, 68.3 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | CHCl3 | 90 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CH3OH | 10 mL | CO | CH4O
product | 2,5-dichloro-4-(7-methoxybenzo[b]thiophen-2-yl)-pyrimidine | ClC1=NC=C(C(=N1)C1=CC2=C(S1)C(=CC=C2)OC)Cl | C13H8Cl2N2OS
